US03935222
1-Ethyl-1,4,5,7-tetrahydro-3,4-dimethyl-6H-pyrazolo[3,4-b]-pyridin-6-one, hydrochloride
23.4 G. of 1-ethyl-1,4,5,7-tetrahydro-3,4-dimethyl6H-pyrazolo[3,4-b]pyridin-6-one (0.12 mol.) are dissolved in 70 ml. of absolute ethanol while warming. After cooling, 32 ml. of ethereal hydrochloric acid (0.2 mol.HCl/l) are added to the solution. Two hours later, 100 ml. of absolute ether are added and the mixture is let stand overnight. The crystallized 1-ethyl-1,4,5,7-tetrahydro-3,4-dimethyl-6H-pyrazolo[3,4-b]pyridin-6-one, hydrochloride is filtered off and dried at 50°, yield 25.3 g. (92%), m.p. 192°-195° (dec.).

reactant | 1-ethyl-1,4,5,7-tetrahydro-3,4-dimethyl6H-pyrazolo[3,4-b]pyridin-6-one | 0.12 mol | C(C)N1N=C(C2=C1NC(CC2C)=O)C | C10H15N3O
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | 0.2 mol | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-Ethyl-1,4,5,7-tetrahydro-3,4-dimethyl-6H-pyrazolo[3,4-b]-pyridin-6-one, hydrochloride | Cl.C(C)N1N=C(C2=C1NC(CC2C)=O)C | InChI=1S/C10H15N3O.ClH/c1-4-13-10-9(7(3)12-13)6(2)5-8(14)11-10;/h6H,4-5H2,1-3H3,(H,11,14);1H
